US06306891B1
To a 1L round bottomed flask with a stirring bar and a balloon hydrogenation adapter was added 1-[1-(4-fluorobenzyl)-4-nitro-1H-pyrrol-2-yl]ethanone AVI-1-1 (8.00 g, 30.51 mmol) absolute EtOH (640 mL) and 10% Pd-C (2.24 g, 2.11 mmol). This mixture was hydrogenated at ambient temperature 24 h. The catalyst was removed by filtration and the EtOH was removed in vacuo. The semi-solid residue was chromatographed on silica gel using EtOAc as eluant to give 1-[4-amino-1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone AVI-2-1 as a yellow crystalline solid. 1H NMR (CDCl3) δ 2.34 (3H, s), 3.01 (2H, br s), 5.42 (2H, s), 6.46 (1H, d, j=2.0 Hz), 6.50 (1H, d, j=2.0 Hz), 6.98 (2H, m), 7.12 (2H, m).

reactant | 1-[1-(4-fluorobenzyl)-4-nitro-1H-pyrrol-2-yl]ethanone | 30.51 mmol, 640 mL, 8.00 g | FC1=CC=C(CN2C(=CC(=C2)[N+](=O)[O-])C(C)=O)C=C1 | C13H11FN2O3
catalyst | Pd-C | 2.11 mmol, 2.24 g | [Pd] | Pd
product | 1-[4-amino-1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone | NC=1C=C(N(C1)CC1=CC=C(C=C1)F)C(C)=O | C13H13FN2O
